US06432988B1
b) 2-(4-Fluorophenyl)-1-(4-pyridyl)ethanone
40.6 g (0.15 mol) of 2-cyano-2-(4-fluorophenyl)-1-(4-pyridyl)ethen-1-ol hydrochloride were refluxed with vigorous stirring for 19 h in 130 ml of 48% strength hydrobromic acid. The reaction mixture was cooled in an ice bath, and the precipitate deposited (4-fluorophenylacetic acid) was filtered off and washed with dist. water. On neutralizing the filtrate with 80 ml of ammonia water, the title compound deposited as a dark-green precipitate. The precipitate was filtered off, washed with dist. water and dried over P2O5 in vacuo: pale gray-beige powder. Yield: 14.2 g (45%).

reactant | 2-cyano-2-(4-fluorophenyl)-1-(4-pyridyl)ethen-1-ol hydrochloride | 0.15 mol, 40.6 g | Cl.C(#N)C(=C(O)C1=CC=NC=C1)C1=CC=C(C=C1)F
reactant | hydrobromic acid | Br | BrH
reactant | 4-fluorophenylacetic acid | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
product | 2-(4-Fluorophenyl)-1-(4-pyridyl)ethanone | FC1=CC=C(C=C1)CC(=O)C1=CC=NC=C1 | C13H10FNO
